US07615563B2
4-(2,4-dichlorophenoxy)-N-phenylbutyramide
To a solution of the 4-(2,4-dichloro-phenoxy)-butyric acid (9.8 g, 40 mmol) and triethylamine (6.0 ml, 40 mmol) in dichloromethane (150 mL) was added dropwise isobutyl chlorocarbonate (6 mL, 40 mol) at −30° C. After stirring at −30° C. for 3 h, aniline (4 mL 40 mol) was added dropwise. The reaction mixture was stirred for 3 h at −30° C. and then allowed to warm up to RT. Aqueous HCl (5%, 100 mL) was added and stirring was continued for 0.5 h. The phases were separated, the aqueous layer was extracted with dichloromethane (2×200 mL). The combined organic extracts were washed with water and brine, dried over Na2SO4 and concentrated in vacuo to give the product (10 g, 77.5%). 1H-NMR (CDCl3): δ 7.49 (d, 2H, J=8.0 Hz), 7.38 (d, 1H, J=2.4 Hz), 7.31 (t, 2H, J=8.0 Hz), 7.18 (dd, 1H, J1=8.8 Hz, J2=2.4 Hz) 7.12 (t, 1H, J=8.0), 6.87 (d, 1H, J=8.8 Hz), 4.12 (t, 2H, J=6.4 Hz), 2.64 (t, 2H, J=6.4 Hz), 2.25 (p, 2H, J=6.4 Hz)

reactant | 4-(2,4-dichloro-phenoxy)-butyric acid | 40 mmol, 9.8 g | ClC1=C(OCCCC(=O)O)C=CC(=C1)Cl | C10H10Cl2O3
reactant | triethylamine | 40 mmol, 6.0 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 40 mol, 6 mL | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | aniline | 40 mol, 4 mL | NC1=CC=CC=C1 | C6H7N
reactant | HCl | 100 mL | Cl | ClH
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-(2,4-dichlorophenoxy)-N-phenylbutyramide | 10 g, 77.5% | ClC1=C(OCCCC(=O)NC2=CC=CC=C2)C=CC(=C1)Cl | C16H15Cl2NO2
